US06316482B1
To a solution of benzyl 1-tert-butoxycarbonylindole-6-carboxylate (1.27 g) in 5.0% formic acid-methanol (20.0 ml) was added 10% palladium on carbon (1.27 g) and the mixture was stirred under nitrogen atmosphere at ambient temperature for 4 hours and stand overnight. The resulting solution was filtered through a bed of celite and the filtrate was concentrated in vacuo. The residue was diluted with chloroform and the solution was washed successively with water and brine. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with ether:n-hexane (1:5) to give 1-tert-butoxycarbonylindoline-6-carboxylic acid (761 mg).

reactant | benzyl 1-tert-butoxycarbonylindole-6-carboxylate | 1.27 g | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)C(=O)OCC1=CC=CC=C1 | C21H21NO4
solvent | formic acid methanol | 20.0 ml | C(=O)O.CO
catalyst | palladium on carbon | 1.27 g | [Pd] | Pd
product | 1-tert-butoxycarbonylindoline-6-carboxylic acid | 761 mg | C(C)(C)(C)OC(=O)N1CCC2=CC=C(C=C12)C(=O)O | C14H17NO4
